US05602252
9-Ethyl-4-[(2-(phenylmethoxy)ethyl)methylamino]imidazo[5,1-h]pteridin-6(5H)-one
Prepared by treatment of N-(2-(phenylmethoxy)ethyl)methylamine with 4,6-dichloro-5-nitropyrimidine, followed by reaction with 2-ethylimidazole, reduction with tin (II) chloride, and cyclization with carbonyldiimidazole.

reactant | N-(2-(phenylmethoxy)ethyl)methylamine | C1(=CC=CC=C1)COCCNC | C10H15NO
reactant | 4,6-dichloro-5-nitropyrimidine | ClC1=NC=NC(=C1[N+](=O)[O-])Cl | C4HCl2N3O2
reactant | 2-ethylimidazole | C(C)C=1NC=CN1 | C5H8N2
reactant | tin (II) chloride | [Sn](Cl)Cl
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
product | 9-Ethyl-4-[(2-(phenylmethoxy)ethyl)methylamino]imidazo[5,1-h]pteridin-6(5H)-one | C(C)C1=NC=C2C(NC=3C(=NC=NC3N21)N(C)CCOCC2=CC=CC=C2)=O | C20H22N6O2
